US07452886B2
A. (4-Prop-2-ynyl-phenyl)-carbamic acid tert-butyl ester
To a solution of 4-prop-2-ynyl-phenylamine (85.4 mmol) and triethylamine (102.5 mmol) in THF (200 ml), di-t-butyl dicarbonate (128.1 mmol) is added. The reaction mixture is stirred at room temperature for 17 h. The reaction mixture is quenched with saturated ammonium chloride and extracted with two 150 ml portions of AcOEt. The combined extracts are washed with brine, dried over sodium sulfate and concentrated under vacuum to give 22.6 g of crude product. Purification of the residue by silica gel column chromatography affords title compound in quantitative yield.

reactant | 4-prop-2-ynyl-phenylamine | 85.4 mmol | C(C#C)C1=CC=C(C=C1)N | C9H9N
reactant | triethylamine | 102.5 mmol | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 128.1 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | (4-Prop-2-ynyl-phenyl)-carbamic acid tert-butyl ester | quantitative yield | C(C)(C)(C)OC(NC1=CC=C(C=C1)CC#C)=O | C14H17NO2
